US08633313B2
tert-Butyl 1-(methoxy(methyl)amino)-1-oxopropan-2-ylcarbamate (50.0 g, 215 mmol) in THF (450 mL) was cooled to −40° C. (dry ice/acetonitrile) and slowly charged with isopropylmagnesium chloride (2.0M, 102.2 mL, 0.95 eq). After a clear solution was obtained (became clear at −20° C. and milky again at −40° C.), bromo(pyridin-2-ylmethyl)magnesium solution (see below for preparation) was added drop wise using cannula before warming to rt overnight. The reaction mixture was quenched with NH4Cl solution and extracted with EtOAc (500 mL×2). The combined organic layers were washed with water, brine, dried over sodium sulfate, and concentrated under high vacuum to give (S)-tert-butyl 3-oxo-4-(pyridin-2-yl)butan-2-ylcarbamate as a tan oil. Small scale reaction was purified by combiflash (EtOAc/hexane, up to 1/3) to give a red oil. Mass Spectrum (ESI) m/e=265 (M+1).

reactant | tert-Butyl 1-(methoxy(methyl)amino)-1-oxopropan-2-ylcarbamate | 215 mmol, 50.0 g | CON(C(C(C)NC(OC(C)(C)C)=O)=O)C | C10H20N2O4
reactant | dry ice acetonitrile | C(=O)=O.C(C)#N
reactant | isopropylmagnesium chloride | 2.0M, 102.2 mL, 0.95 eq | C(C)(C)[Mg]Cl
reactant | bromo(pyridin-2-ylmethyl)magnesium | Br[Mg]CC1=NC=CC=C1
solvent | THF | 450 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 3-oxo-4-(pyridin-2-yl)butan-2-ylcarbamate | O=C([C@H](C)NC(OC(C)(C)C)=O)CC1=NC=CC=C1 | C14H20N2O3
